US08013154B2
A. Preparation of 4,6-Bis(2,2,2-trifluoroethoxy)pyrimidin-2-yl isothiocyanate
2-Amino-4,6-bis(2,2,2-trifluoroethoxy)pyrimidine (20.0 g, 68.7 mmol) was added to a solution of thiophosgene (15.7 mL, 206 mmol) in anhydrous dioxane (100 mL) under an N2 atmosphere. The resulting solution was heated to reflux. After 18 h the heat was removed and the reaction cooled to room temperature. The dioxane was evaporated to give a dark oil. The dark oil was distilled to afford the product as a light yellow oil (13.7 g, 60% yield); bp 83-86° C., (ca 0.2 mmHg): 1H NMR (CDCl3) δ 6.24 (s 1H), 4.78 (q, 4H, J=8.2 Hz); GCMS (EI, 70 eV) m/z 333 (M+).

reactant | 2-Amino-4,6-bis(2,2,2-trifluoroethoxy)pyrimidine | 68.7 mmol, 20.0 g | NC1=NC(=CC(=N1)OCC(F)(F)F)OCC(F)(F)F | C8H7F6N3O2
reactant | thiophosgene | 206 mmol, 15.7 mL | C(=S)(Cl)Cl | CCl2S
solvent | dioxane | 100 mL | O1CCOCC1 | C4H8O2
product | 4,6-Bis(2,2,2-trifluoroethoxy)pyrimidin-2-yl isothiocyanate | 13.7 g, 60% yield | FC(COC1=NC(=NC(=C1)OCC(F)(F)F)N=C=S)(F)F | C9H5F6N3O2S
